Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
"Facial Jerking"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The pt is a ___ year-old with history of HTN who presents with 
dysarthria and facial twitching found to have R IPH on OHS 
NCHCT.

Pt flew from ___ to ___ ___ evening for business. 
___ morning he was having a meeting with a business 
colleague and when he spoke, he noticed that his speech was 
slurred. This lasted through to ___ ___ when he felt that 
his speech improved - it was still not back to normal but the 
slurring was not as noticeable. He then got on a plane back to 
___ that evening. When on the plane, he had a several minute 
episode of feeling his tongue jerk uncontrollably in his mouth 
and that his oral muscles were spasming. He could not talk or 
swallow during these minutes. This resolved spontaneously. When 
he talked to the cab driver on the ride home in ___, he felt 
that his speech was more slurred again. He took a nap when he 
arrived home around 11:30PM and when he woke up to use the 
bathroom at 12AM, he and his wife witnessed facial jerking - 
unclear which side - that lasted several minutes. They called 
911, and on the ambulance ride to ___, another several 
minute episode of facial jerking occurred. At ___, they 
obtained ___ that showed R frontotemporal IPH and transferred 
for further management. 

On arrival the patient is mildly dysarthric with L NLFF that is 
subtle. 

He does mention that the ___ prior to these events he was 
doing a different exercise at the gym and felt that his right 
hand grip was slightly weaker. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, lightheadedness, vertigo, tinnitus or hearing 
difficulty. Denies difficulties producing or comprehending 
speech.  Denies focal weakness, numbness, parasthesiae. Denies 
difficulty with gait.

On general review of systems, the pt denies recent fever or 
chills. Denies cough, shortness of breath.  Denies chest pain or 
tightness, palpitations.  Denies nausea, vomiting, diarrhea, 
constipation or abdominal pain.  No recent change in bowel or 
bladder habits.  No dysuria.  Denies arthralgias or myalgias. 
Denies rash.

 
Past Medical History:
HTN
 
Social History:
___
Family History:
Maternal Grandfather - cerebral aneurysm
___ grandmother - cerebral aneurysm - rupture. 
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals: ___, HR 64, SBP initially 150s, quickly decreased to 
120s/80s without treatment, RR 14, 99% on RA

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive, able to name ___ backward without 
difficulty. Language is fluent with intact repetition and 
comprehension. Normal prosody. There were no paraphasic errors. 
Pt was able to name both high and low frequency objects.  Able 
to read without difficulty. Speech was mildly dysarthric - with 
guttural sounds more than lingual sounds. No deficit with labial 
sounds. Able to follow both midline and appendicular commands. 
Pt was able to register 3 objects and recall ___ at 5 minutes. 
There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation.
V: Facial sensation intact to light touch.
VII: Mild L NLFF, symmetric activation
VIII: Hearing intact to finger-rub bilaterally.
IX, X: R palate elevates more than L.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue deviates to left. Has left tongue weakness on
testing. 

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted. 
No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch throughout. No extinction 
to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    3   2
R  3  3    3    3   2
Plantar response was flexor bilaterally. Crossed adductors and 
pectoral jerks present bilaterally. No sustained clonus. 

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred. No historical difficulty

=================
EXAM ON DISCHARGE
=================
LT NASOLABIAL FOLD FLATTENING.
 
Pertinent Results:
====
LABS
====
___ 03:09AM   WBC-9.8 RBC-4.46* HGB-13.3* HCT-40.5 MCV-91 
MCH-29.8 MCHC-32.8 RDW-12.2 RDWSD-40.1
___ 03:09AM   NEUTS-65.0 ___ MONOS-5.7 EOS-3.1 
BASOS-0.3 IM ___ AbsNeut-6.36* AbsLymp-2.51 AbsMono-0.56 
AbsEos-0.30 AbsBaso-0.03
___ 03:09AM   PLT COUNT-202
___ 03:09AM   ___ PTT-29.9 ___
___ 03:09AM   CHOLEST-175
___ 03:09AM   TRIGLYCER-146 HDL CHOL-53 CHOL/HDL-3.3 
LDL(CALC)-93
___ 03:09AM   cTropnT-<0.01
___ 03:23AM   LACTATE-1.0
___ 03:09AM   GLUCOSE-104* UREA N-22* CREAT-1.1 SODIUM-138 
POTASSIUM-4.2 CHLORIDE-102 TOTAL CO2-25 ANION GAP-15
___ 04:45AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:45AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:10AM BLOOD WBC-10.1* RBC-4.41* Hgb-13.3* Hct-40.4 
MCV-92 MCH-30.2 MCHC-32.9 RDW-12.4 RDWSD-41.4 Plt ___
___ 06:10AM BLOOD Plt ___
___ 06:10AM BLOOD ___ PTT-28.8 ___
___ 06:10AM BLOOD Glucose-105* UreaN-20 Creat-1.1 Na-145 
K-4.2 Cl-106 HCO3-30 AnGap-13
___ 06:10AM BLOOD Calcium-9.2 Phos-5.1* Mg-2.2

========
IMAGING:
========

CTA HEAD W&W/O C & RECONS (___) 
1. A 2.4 cm right frontal intraparenchymal hematoma with mild 
surrounding 
edema and local mass effect with no midline shift. 
2. No evidence of aneurysm greater than 3 mm, dissection, 
vascular 
malformation or significant luminal narrowing. 

MR HEAD W & W/O CONTRAST (___)
1. 2.8 x 2.8 x 2.1 right frontal lobe hematoma with surrounding 
edema and mild  local mass effect.  No evidence of associated 
abnormal enhancement or vascular  malformation. 

CT ABD & PELVIS WITH CONTRAST (___)
1. 2.1 x 1.9 cm relatively hyperdense lesion at the lower pole 
of the left kidney, incompletely characterized on this 
single-phase study.  While this 
could represent a high-density cyst, a primary renal malignancy 
cannot be 
excluded.  Renal MRI is recommended for further 
characterization. 
2. A 9 x 6 mm lucency with a sclerotic rim in the left iliac 
bone most likely represents a benign bone lesion, though 
malignancy cannot be entirely excluded, particularly in the 
absence of prior studies to document stability. 
3. 1.3 x 1.0 cm exophytic hypodensity arising from the lower 
pole of the left  kidney, likely a simple renal cyst. 
4. Nonobstructing left renal stone. 
5. Multiple subcentimeter hypodensities scattered throughout the 
liver, likely  simple cysts or hematomas. 

CT CHEST W/O CONTRAST
1. No evidence of intrathoracic malignancy.  Essentially normal 
chest CT except  for right lower lobe potentially calcified 
pulmonary nodule that will be  suggesting prior granulomatous 
exposure. 

CEREBRAL ANGIOGRAM ___:
Unremarkable 5 vessel cerebral angiogram.

 
Brief Hospital Course:
Mr. ___ is a ___ man with a history of HTN who 
presented with dysarthria and facial twitching, who was found to 
have a right intraparenchymal hemorrhage, predominantly in the 
premotor region on an outside hospital ___. CTA head and neck 
showed no stenosis, significant atherosclerosis, large aneurysm, 
or AVM. Etiology presumed to be hypertensive, exacerbated by 
periods of overexertion. In addition, there could have been an 
underlying cavernous hemangioma that bled under the 
circumstances mentioned above. He underwent conventional 
angiography which showed no evidence of AVM. However he will 
follow with Dr. ___ in ___ clinic to determine the 
need for a repeat angio. We would prefer to wait until the 
hemorrhage has cleared and then repeat an MRI with contrast to 
see if there is any abnormality.

In terms of risk modification, we have counseled him that overly 
vigorous exercise may increase his risk of future hemorrhagic 
events. We advised him to continue his home lisinopril, avoid 
extreme exercise, and monitor daily blood pressure/heart rate to 
maintain them in an appropriate range. 

Also, a CT torso done in the context of supraclavicular nodes 
demonstrated a left renal hypodensity, likely a cyst, to be 
followed-up with an outpatient MRI. 

He will follow-up with neurosurgery, neurology and his PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 5 mg PO DAILY 
2. Propranolol 20 mg PO DAILY:PRN Anxiety 

 
Discharge Medications:
1. Lisinopril 5 mg PO DAILY 
2. LevETIRAcetam 750 mg PO BID 
RX *levetiracetam [Keppra] 750 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*3
3. Propranolol 20 mg PO DAILY:PRN Anxiety 
4. ChlorproMAZINE 25 mg PO Q8H:PRN hiccups 
RX *chlorpromazine 25 mg 1 tablet(s) by mouth q___ PRN Disp #*10 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Right intraparenchymal hemorrhage

Secondary:
Hypertension
Possible renal cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital due to symptoms of difficulty 
speaking and facial twitching, resulting from an acute 
intracerebral hemorrhage, a condition where there is bleeding 
from a blood vessel in the brain. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain can result in a variety of symptoms. 
Imaging of your head and neck (non-contrast head CT and CTA head 
and neck) showed a right sided intraparenchymal hemorrhage. It 
did not show evidence of a mass or an arteriovenous malformation 
(AVM). This was confirmed with another type of imaging, MRI. You 
also had an angiogram performed by the vascular neurosurgeons, 
and they will see you as an outpatient for follow up. We are 
recommending a CT angiogram of your head and neck in ___ months 
before you are submitted to another conventional angiography. 

Also, a CT of your torso showed what is likely a cyst in your 
left kidney. This will be followed-up with an outpatient MRI for 
further investigation.  

Bleeding in the brain can have many different causes, so we 
assessed you for medical conditions that might raise your risk 
of this. We do think that the cause is likely hypertension. In 
order to prevent future bleeding in the brain, we plan to modify 
those risk factors. Your risk factors are:  
- Hypertension
- Overexertion during exercise

Our plan is as follows:
- Continue Lisinopril 5mg daily, your blood pressure medication.
- Monitor blood pressure at home.
- Avoid exercise that excessively increases your heart rate.
  
Instructions: 
Please take your other medications as prescribed.  
Please follow-up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since hemorrhagic stroke 
can recur, please pay attention to the sudden onset and 
persistence of these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  

ANGIOGRAM DISCHARGE INSTRUCTIONS: 
Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You make take a shower.
Medications
•Resume your normal medications and begin new medications as 
directed.
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•The medication may make you bleed or bruise easily.
•Fatigue is very normal.
When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___